US06861428B2
1) Preparation of 4-carboxy-2-(2-chlorobenzyl)-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 2-chlorobenzyl chloride were reacted. Without purification, the reaction product was reacted further following the procedure of Example 1(7) to yield the title compound as pale yellow needles (yield: 76.4%).

reactant | 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OC)C | C13H11FN2O3
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
product | 4-carboxy-2-(2-chlorobenzyl)-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 76.4% | C(=O)(O)C=1C(N(N=C(C1)C1=CC(=C(C=C1)F)C)CC1=C(C=CC=C1)Cl)=O | C19H14ClFN2O3
